US04228280
To a mixture of 0.2 ml. (0.005 mole) fuming nitric acid and 1.5 g. (0.01 mole) trifluoromethanesulfonic acid in 15 ml. anhydrous methylene chloride maintained at a temperature of -30° C. there is added dropwise a solution of 0.60 g. (0.002 mole) 3-phenyl-5,8-dihydro-6,6,8-trimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide in 15 ml. methylene chloride, maintaining the temperature at -30° C. throughout the addition. The resulting mixture is allowed to stir at ambient temperature for 72 hours, then poured onto ice and neutralized with solid sodium bicarbonate. The organic layer is removed, washed with saturated brine solution, dried over magnesium sulfate and evaporated. Trituration of the resulting residue with ether gives 3-(m-nitrophenyl)-5,8-dihydro-6,6,8-trimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide-monohydrate; m.p. 150° (d).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | trifluoromethanesulfonic acid | 0.01 mole | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | 3-phenyl-5,8-dihydro-6,6,8-trimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide | 0.002 mole | C1(=CC=CC=C1)C=1N=NC2=C([N+]1[O-])C1C(OC2(CC1)C)(C)C | C17H19N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(m-nitrophenyl)-5,8-dihydro-6,6,8-trimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide-monohydrate | O.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=NC2=C([N+]1[O-])C1C(OC2(CC1)C)(C)C | InChI=1S/C17H18N4O4.H2O/c1-16(2)12-7-8-17(3,25-16)14-13(12)20(22)15(19-18-14)10-5-4-6-11(9-10)21(23)24;/h4-6,9,12H,7-8H2,1-3H3;1H2
